US05550134
(+)-(4aR)-(10bR)-4,10b-dimethyl-8-(2-naphthylthio)-1,2,3,4,-4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one
A 282 mg portion of (4aR)-(10bR)-10b-methyl-8-(2-naphthylthio)-1,2,3,4,4a, 5,6,10b-octahydrobenzo [f]quinolin-3-one was methylated with methyl iodide following the process of Example 95 to obtain 137 mg of the desired product. mp 138°-139.5° FDMS: m/e=387. α[D]589 =+69.6, α[D]365 =+261.4 (chloroform).

reactant | (4aR)-(10bR)-10b-methyl-8-(2-naphthylthio)-1,2,3,4,4a, 5,6,10b-octahydrobenzo [f]quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)SC2=CC1=CC=CC=C1C=C2)=O | C24H23NOS
reactant | methyl iodide | CI | CH3I
product | (+)-(4aR)-(10bR)-4,10b-dimethyl-8-(2-naphthylthio)-1,2,3,4,-4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 137 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC3=CC1=CC=CC=C1C=C3)C)=O | C25H25NOS
